US07012075B2
To N-(4-bromo-1-methyl-1H-pyrazol-3-yl)leucine (366 mg, 1.26 mmol), PyBOP (725 mg, 1.39 mmol), aminoacetonitrile hydrochloride (257 mg, 2.78 mmol) in dry DMF (15 mL) under dry nitrogen was added triethylamine (0.62 mL, 4.45 mmol) dropwise and the reaction stirred for 2½ hours. Aqueous sat. NaHCO3 was added and the product extracted with Et2O (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 6/4) to afford N2-(4-bromo-1-methyl-1H-pyrazol-3-yl)-N1-(cyanomethyl)leucinamide.

reactant | N-(4-bromo-1-methyl-1H-pyrazol-3-yl)leucine | 1.26 mmol, 366 mg | BrC=1C(=NN(C1)C)N[C@@H](CC(C)C)C(=O)O | C10H16BrN3O2
reactant | PyBOP | 1.39 mmol, 725 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | aminoacetonitrile hydrochloride | 2.78 mmol, 257 mg | Cl.NCC#N
reactant | triethylamine | 4.45 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N2-(4-bromo-1-methyl-1H-pyrazol-3-yl)-N1-(cyanomethyl)leucinamide | BrC=1C(=NN(C1)C)N[C@@H](CC(C)C)C(=O)NCC#N | C12H18BrN5O
